US07977477B2
A mixture of 2,6-difluorobenzoic acid (43 mg, 0.28 mmol), 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (50 mg, 0.25 mmol), EDC (58 mg, 0.30 mmol) and HOBt (40.5 mg, 0.30 mmol) in DMF (10 ml) was stirred at ambient temperature for 24 h. The mixture was reduced in vacuo, water (30 ml) added and the resultant solid collected by filtration, dried in the vacuum oven and purified by flash column chromatography [SiO2, EtOAc-petrol (1:2, 1:1, 3:1)] affording N-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2,6-difluoro-benzamide (20 mg, 24%). (LC/MS: Rt 3.29, [M+H]+ 339.64).

reactant | 2,6-difluorobenzoic acid | 0.28 mmol, 43 mg | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.25 mmol, 50 mg | N1C(=NC2=C1C=CC=C2)C2=NNC=C2N | C10H9N5
reactant | EDC | 0.30 mmol, 58 mg
reactant | HOBt | 0.30 mmol, 40.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | N-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2,6-difluoro-benzamide | 20 mg, 24% | N1C(=NC2=C1C=CC=C2)C2=NNC=C2NC(C2=C(C=CC=C2F)F)=O | C17H11F2N5O
